US05004741
1,3-Dihydro-5-(2-fluorophenyl)-3-(RS)-(2-indolecarbonylamino)-2H-1,4-benzodiazepin-2-one
3-(RS)-Amino-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one (1.5 gm, 5.57 mmol), indole-2-carbonyl chloride (1.05 gm, 5.85 mmol) and triethylamine (0.814 ml, 5.85 mmol) were combined in CH2Cl2 (15 ml) and stirred 10 min. The reaction was concentrated and chromatographed on silica gel (5% MeOH in CH2Cl2) to give the title compound as a white solid from CH2Cl2 : (m.p. 290°-291°).

reactant | 3-(RS)-Amino-1,3-dihydro-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 5.57 mmol, 1.5 gm | NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C15H12FN3O
reactant | indole-2-carbonyl chloride | 5.85 mmol, 1.05 gm | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | triethylamine | 5.85 mmol, 0.814 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dihydro-5-(2-fluorophenyl)-3-(RS)-(2-indolecarbonylamino)-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)NC(=O)C=2NC1=CC=CC=C1C2 | C24H17FN4O2
